Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
metformin / Victoza / sulfasalazine
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion, wheezing, coughing, and
occasional lightheadedness
 
Major Surgical or Invasive Procedure:
___
Coronary artery bypass grafting x 2
(left internal mammary artery to left anterior descending
artery and reverse saphenous vein graft to obtuse marginal
artery).

 
History of Present Illness:
___ year old female with extensive
cardiac who has been experiencing dyspnea on exertion for the
past year. She denies any chest pain. She also reports wheezing,
coughing, and occasional lightheadedness. She describes her
symptoms are similar to when she had prior stents/MI. She was
sent for a stress MIBI which was abnormal and she was then
referred for coronary angiogram which demonstrated significant
LAD and Cx disease. Cardiac surgery was consulted for coronary
artery bypass graft evaluation. 

 
Past Medical History:
Hypertension      
Hyperlipidemia
MI x 4 
Coronary artery disease 
Ischemic cardiomyopathy s/p IMI, with LVEF 35-40% 
LBBB 
Carotid stenosis s/p ___ stent ___
Diabetes mellitus
Vertigo  
Neuropathy- BLE 
Asthma 
Liver disease  
Steatophepatitis 
Hypothyroidism   
Anemia  
CKD stage III        
Left-sided breast cancer, status post partial
mastectomy ___, XRT for Paget's of the nipple, high-grade
DCIS, atypical lobular hyperplasia.
Psoriatic arthritis on MTX 
Hammertoe 
Past Surgical History:
Left Rotator cuff repair  
Partial left mastectomy ___
Cataract surgery   
___ stent ___
Past Cardiac Procedures:
-NSTEMI ___ with BMSs to LAD and ostial and ___ RCA.  
-NSTEMI ___ s/p mRCA DES(Resolute; 80% stenosis/thrombosis)
-NSTEMI ___ with 99% p/oRCA ISRS s/p DES (2.5x22mm 
Resolute).
-NSTEMI ___ with 90% mid ___ s/p DES (2.5x38mm ___. 

 
Social History:
___
Family History:
Mother lived into late ___ and had syncope and PPM
Father died age ___ of MI, first MI at age ___. 
Twin brother with MI in his ___. 

 
Physical Exam:
Pulse:62 Resp:18  O2 sat:100% RA 
B/P  Right:130/58    Left: 151/57
Height: 64 in   Weight: 184 lbs

General:
Skin: Dry [X] intact []
HEENT: PERRLA [X] EOMI [X]
Neck:  Supple [X] Full ROM [X]
Chest: Lungs clear bilaterally [X]
Heart: RRR [X]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [X] non-distended [X] non-tender []  bowel sounds 
+
[]
Extremities: Warm [X], well-perfused [X]  Edema Trace to 1+
bilat pedal edema. Varicosities: None []
Neuro: Grossly intact [X]
Pulses: Strong/symmetric peripheral pulses

Femoral      Right: Palp  Left: Palp 
DP           Right: Palp  Left: Palp 
___           Right: Palp  Left: Palp 
Radial       Right: Palp  Left: Palp 
.
DISCHARGE EXAM:
Vital Signs and Intake/Output:
___ 0423 Temp: 98.0 PO BP: 135/73 L Lying HR: 71 RR: 14 O2
sat: 97% O2 delivery: Ra 
Last 24 hours Total cumulative -210ml
    IN: Total 840ml, PO Amt 840ml
    OUT: Total 1050ml, Urine Amt 1050ml 
Physical Examination:
General: NAD [x]  
Neurological: A/O x3 [x] non-focal [x] 
HEENT:  PEERL [x] 
Cardiovascular: RRR [x]  Irregular []  Murmur [] Rub [] 
Respiratory: CTA [x]  No resp distress [x]
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity  Warm [] Edema ____  
Left Upper extremity    Warm []  Edema_____  
Right Lower extremity  Warm [x] Edema 1+_____ 
Left Lower extremity    Warm [x]  Edema _1+____  
Pulses:
DP             Right:       Left:
___             Right:       Left:
Radial         Right:       Left:
Skin/Wounds: Dry [x] intact [x]
Sternal: CDI [x] no erythema or drainage [x]
                 Sternum stable [x] Prevena []
Lower extremity: Right [x] Left []  CDI []
Upper extremity: Right [] Left []  CDI []

 
Pertinent Results:
Intra-op TEE ___
Conclusions   
Pre-bypass rhythm: sinus rhythm with left bundle branch block

 PRE-BYPASS: 

 The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. There is moderate regional left ventricular systolic 
dysfunction with visually estimated LVEF of ___. The basal 
inferior and inferoseptal segments are hypokinetic; the 
remaining basal segments contract normally. The mid inferior, 
inferoseptal, anteroseptal and anterior segments are 
hypokinetic. The mid anterolateral and inferolateral segments 
contract normally. The apical segments are severely hypokinetic. 
(True apex not visualized). Septal motion is consistent with 
known left bundle branch block. No masses or thrombi are seen in 
the left ventricle. Doppler parameters are most consistent with 
Grade I (mild) left ventricular diastolic dysfunction. Right 
ventricular chamber size and free wall motion are normal. There 
are simple atheroma in the ascending aorta. There are simple 
atheroma in the descending thoracic aorta. The aortic valve 
leaflets (3) are mildly thickened. There is no aortic valve 
stenosis. Trace aortic regurgitation is seen. The mitral valve 
leaflets are structurally normal. Mild-to-moderate (___) mitral 
regurgitation is seen initially, this decreases to mild at lower 
blood pressures. There is a trivial/physiologic pericardial 
effusion. 

 POST-BYPASS:

 Rhythm: Atrially paced with left bundle branch block
 Infusions: Norepinephrine

 1. Left ventricular systolic function is slightly less vigorous 
(estimated LVEF is approximately 30%). Abnormal septal motion is 
more pronounced with more significant hypokinesis. Mid anterior 
wall hypokinesis is more pronounced than pre-bypass.
 2. Right ventricular function remains preserved.
 3. Mitral regurgitation is trace-mild.
 4. Remaining valvular function is unchanged.
 5. The thoracic aorta is intact following decannulation.

 Dr. ___ was notified of the findings at the time the exam was 
performed in the operating room.   

.

___ 04:29AM BLOOD WBC-10.7* RBC-2.50* Hgb-7.7* Hct-23.7* 
MCV-95 MCH-30.8 MCHC-32.5 RDW-16.3* RDWSD-56.4* Plt ___
___ 02:17AM BLOOD ___ PTT-23.1* ___
___ 12:45PM BLOOD WBC-14.5* RBC-3.13* Hgb-9.5* Hct-29.0* 
MCV-93 MCH-30.4 MCHC-32.8 RDW-16.4* RDWSD-55.1* Plt ___
___ 04:29AM BLOOD Glucose-89 UreaN-42* Creat-1.5* Na-138 
K-4.3 Cl-103 HCO3-25 AnGap-10
___ 02:17AM BLOOD Glucose-128* UreaN-36* Creat-1.6* Na-143 
K-4.7 Cl-111* HCO3-22 AnGap-10
___ 04:29AM BLOOD Mg-2.4
___ 04:29AM BLOOD ALT-<5 AST-15 AlkPhos-58 Amylase-22 
TotBili-0.4
 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent CABG x 2 with Dr. ___.  Overall the 
patient tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring.  Prevena dressing placed to optimize wound 
healing. 
 POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable.  Beta blocker was initiated and the 
patient was gently diuresed toward the preoperative weight.  The 
patient was transferred to the telemetry floor for further 
recovery.  Chest tubes and pacing wires were discontinued 
without complication.  The patient was evaluated by the Physical 
Therapy service for assistance with strength and mobility.  By 
the time of discharge on POD 4 the patient was ambulating 
freely, the wound was healing and pain was controlled with oral 
analgesics.  The patient was discharged to ___ on ___ 
___ in good condition with appropriate follow up 
instructions.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. FoLIC Acid 1 mg PO DAILY 
3. Levemir 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
4. Levothyroxine Sodium 125 mcg PO DAILY 
5. Methotrexate 10 mg PO 1X/WEEK (MO) 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN cp 
8. Quinapril 10 mg PO DAILY 
9. Torsemide ___ mg PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. Vitamin D 400 UNIT PO DAILY 
12. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Docusate Sodium 100 mg PO BID  
5.  Furosemide 40 mg PO DAILY Duration: 10 Days  
6.  Glargine 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
7.  Levothyroxine Sodium 125 mcg PO DAILY  
8.  Metoprolol Tartrate 25 mg PO TID  
9.  Potassium Chloride 20 mEq PO DAILY Duration: 10 Days  
10.  Ranitidine 150 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Hypertension  
Hyperlipidemia 
MI x 4  
Coronary artery disease  
Ischemic cardiomyopathy s/p IMI, with LVEF 35-40%  
LBBB  
Carotid stenosis s/p ___ stent ___ 
Diabetes mellitus 
Vertigo  
Neuropathy- BLE  
Asthma  
Liver disease  
Steatophepatitis  
Hypothyroidism  
Anemia  
CKD stage III  
Left-sided breast cancer, status post partial 
mastectomy ___, XRT for Paget's of the nipple, high-grade 
DCIS, atypical lobular hyperplasia. 
Psoriatic arthritis on MTX  
Hammertoe  
Past Surgical History: 
Left Rotator cuff repair  
Partial left mastectomy ___ 
Cataract surgery  
___ stent ___ 
Past Cardiac Procedures: 
-NSTEMI ___ with BMSs to LAD and ostial and ___ RCA.  
-NSTEMI ___ s/p mRCA DES(Resolute; 80% stenosis/thrombosis) 
-NSTEMI ___ with 99% p/oRCA ISRS s/p DES (2.5x22mm 
Resolute). 
-NSTEMI ___ with 90% mid ___ s/p DES (2.5x38mm ___.  

 
Discharge Condition:
Alert and oriented x3, non-focal
 Ambulating, gait steady
 Sternal pain managed with oral analgesics
 Sternal Incision - healing well, no erythema or drainage

Edema 1+

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
 Please - NO lotion, cream, powder or ointment to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics

Clearance to drive will be discussed at follow up appointment 
with surgeon
 No lifting more than 10 pounds for 10 weeks

Encourage full shoulder range of motion, unless otherwise 
specified
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge

 
Followup Instructions:
___